US04058619
(3-Bromo-2-thienylthio)-acetic Acid
The compound is prepared analogously to Example 10 by saponification of the crude methyl ester of (3-bromo-2-thienylthio-acetic acid prepared with a 76% yield from 2,3-dibromothiophene, butyllithium, sulfur, and methyl chloroacetate. After chromatography on silica gel (eluent: hexane/acetone/acetic acid = 93:5:2), the product is obtained as a non-crystallizing oil. The compound shows the physiochemical data to be expected (IR, NMR spectrum) and yields correct elementary analyses for C, H, S, and Br.

reactant | 3-bromo-2-thienylthio-acetic acid | BrC1=C(SC=C1)CC(=S)O | C6H5BrOS2
reactant | 2,3-dibromothiophene | BrC=1SC=CC1Br | C4H2Br2S
reactant | butyllithium | C(CCC)[Li]
reactant | sulfur | [S] | S
reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
product | (3-Bromo-2-thienylthio)-acetic Acid | 76% yield | BrC1=C(SC=C1)SCC(=O)O | C6H5BrO2S2
